*Common Source Circuit
*.include /home/ali/skywater/skywater-pdk/libraries/sky130_fd_pr/latest/models/corners/tt.spice
.lib "../../Models/libs.tech/ngspice/sky130.lib.spice" tt

X1 d g 0 0 sky130_fd_pr__nfet_01v8 L=.15 W=1.68
R1 d vdd 1000

V1 g 0 1
VDD vdd 0 1.8

.control
DC v1 0 1.8 0.1
print -I(vdd)
.endc
.end